US08258144B2
4-(4-(1-(2-cyanoacetyl)piperidin-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide
To a suspension of cyanoacetic acid (85 mg, 1.00 mmol) in CH2Cl2 (2 mL) (containing 2 drops of DMF), oxalyl chloride (0.082 mL, 0.94 mmol) was added. The mixture was stirred at room temperature for 50 min. To the above solution cooled in an ice bath, a solution of 4-(4-(piperidin-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (20 mg, 0.057 mmol) and TEA (0.450 mL, 3.22 mmol) in DMF (2 mL) was added. The mixture was stirred at room temperature for 20 h. Water was added. CH2Cl2 was removed in vacuo. The residue was purified by HPLC to give the titled compound (10 mg). MS 419.3 (M+H); UV 200.0, 311.9 nm.

reactant | cyanoacetic acid | 1.00 mmol, 85 mg | C(#N)CC(=O)O | C3H3NO2
reactant | oxalyl chloride | 0.94 mmol, 0.082 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-(piperidin-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 0.057 mmol, 20 mg | N1CCC(CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2 | C18H21N7O
reactant | Water | O | H2O
catalyst | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(4-(1-(2-cyanoacetyl)piperidin-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 10 mg | C(#N)CC(=O)N1CCC(CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2 | C21H22N8O2
